US06380387B1
N-[[2-(2-methylethyl)-6-methylphenyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 2-(2-methylethyl)-6-methylbenzoic acid using the general procedures described in example 7 and was obtained as an amorphous white solid. ES-HRMS m/e calcd for C27H31N3O5 (M+Na) 500.2156, found 500.2160.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C17H21N3O4
reactant | 2-(2-methylethyl)-6-methylbenzoic acid | CCCC1=C(C(=O)O)C(=CC=C1)C | C11H14O2
product | N-[[2-(2-methylethyl)-6-methylphenyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | CCCC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C27H31N3O5
